* source AEFDSCZXF
V_V2         VEE 0 -2.5
R_R2         N04129 N04139  75 TC=0,0 
R_R3         0 OUT  200 TC=0,0 
R_R1         N04139 OUT  500 TC=0,0 
V_V1         VCC 0 2.5
I_I1         N04129 0 DC 0Adc AC 0Aac
+SIN 0 2m 1k 0 0 0
R_R153         N04789 N1080636  130 TC=0,0 
X_U2         N1080646 N1080626 5 -5 N1080636 OPAX277
R_R147         N1080646 5  5k TC=0,0 
R_R149         -5 N1080646  15k TC=0,0 
R_R148         N1080626 N1080636  200 TC=0,0 
V_V4         0 -5 5
V_V3         5 0 5
C_C263         0 N04789  0.1u  TC=0,0 
X_U4         N04789 N04139 VCC VEE OUT OPA855
