* source ASERFASER
I_I1         N1066320 0 DC 0Adc AC 0Aac
+SIN 0 2m 1k 0 0 0
R_R1         N1066324 N1066332  1.4k TC=0,0 
X_U71         0 N1066324 V+ V- N1066332 OPA858
V_V1         V+ 0 5
R_R2         N1066320 N1066324  200 TC=0,0 
V_V2         0 V- 5
