* source ASFQ23WCASDCD
V_V1         VCC 0 5
V_V2         0 VEE 0
C_C269         N1105448 0  1n  TC=0,0 
R_R153         N1105448 N1105246  130 TC=0,0 
C_C253         0 VCC  0.1uF  TC=0,0 
C_C268         0 VCC  1n  TC=0,0 
C_C252         0 VEE  0.1uF  TC=0,0 
X_U1         N1106863 N1105230 VCC VEE N1105246 OPAX277
C_C267         0 VEE  1n  TC=0,0 
R_R154         N1105246 N1105230  200 TC=0,0 
R_R155         N1105230 0  150 TC=0,0 
C_C261         0 N1106863  1n  TC=0,0 
C_C262         0 N1106863  0.1u  TC=0,0 
V_V3         N1108298 0 5
X_R156         0 N1106863 N1108298 POT PARAMS: SET={SET} VALUE=20k
.PARAM  set=0.5
