* source AWETRAWE
C_C295         0 VEE  1nF  TC=0,0 
C_C307         0 N1153202  1n  TC=0,0 
R_R192         N1154454 N1154096  10.1k TC=0,0 
X_U84         N1153616 N1153146 N1153160 VCC VEE OPA695
R_R194         N1152986 N1152588  10 TC=0,0 
C_C308         0 VCC  1nF  TC=0,0 
C_C293         0 N1152588  1.2p  TC=0,0 
R_R190         N1154380 N1154108  100 TC=0,0 
C_C309         0 VCC  6.8uF  TC=0,0 
C_C297         0 VCC  0.1uF  TC=0,0 
V_V14         0 VEE 5
C_C312         0 N1154364  1n  TC=0,0 
R_R179         N1153146 N1153160  402 TC=0,0 
R_R182         IN N1153160  27 TC=0,0 
V_V13         VCC 0 5
V_V18         0 N1154454 5
V_V15         N1153234 0 5
R_R180         N1153466 N1153234  2k TC=0,0 
R_R181         N1153326 N1153336  200 TC=0,0 
C_C296         0 VCC  1n  TC=0,0 
R_R183         N1153616 0  20 TC=0,0 
X_U85         N1153466 N1153326 VCC VEE N1153336 OPAX277
V_V16         0 N1153982 5
C_C306         0 0  0.1uF  TC=0,0 
C_C305         0 VCC  0.1uF  TC=0,0 
R_R177         N1152588 N1152626  500 TC=0,0 
C_C303         0 VCC  1nF  TC=0,0 
X_U87         N1154096 N1153962 VCC N1154430 N1153972 OPAX277
C_C313         0 N1154430  0.1uF  TC=0,0 
C_C310         0 VEE  0.1uF  TC=0,0 
R_R188         N1153962 N1153972  200 TC=0,0 
V_V17         N1153834 0 5
X_U83         N1153202 N1152986 N1152626 VCC 0 OPA855
C_C294         0 VEE  6.8uF  TC=0,0 
C_C311         0 VEE  1n  TC=0,0 
R_R184         N1153336 N1153202  130 TC=0,0 
C_C314         0 N1154430  1n  TC=0,0 
C_C299         0 VCC  1n  TC=0,0 
R_R186         N1153982 N1153466  18k TC=0,0 
C_C302         0 VCC  6.8u  TC=0,0 
C_C292         N1152626 N1152588  0.5pF  TC=0,0 
C_C304         0 VCC  1n  TC=0,0 
R_R189         0 N1153326  200 TC=0,0 
R_R191         N1153972 N1154364  130 TC=0,0 
I_I6         0 N1152588 DC 0Adc AC 0Aac
+PULSE 0 6u 5n 0.4n 0.4n 1n 0
C_C300         0 VCC  0.1uF  TC=0,0 
C_C301         N1152626 N1153136  1n  TC=0,0 
R_R178         N1153136 N1153146  50 TC=0,0 
C_C298         N1152626 N1153136  0.1u  TC=0,0 
R_R187         N1154096 N1153834  9.9 TC=0,0 
X_U86         IN N1154364 VCC 0 N1154108 N1154380 TLV3604
R_R176         0 N1152588  21.34G TC=0,0 
.PARAM  ivar=0.5
