* source COMPARATOR
V_V1         5 0 5
V_V2         0 -5 5
X_U74         IN N1063280 5 0 N1063633 N1063637 TLV3604
R_R145         N1063096 N1063106  200 TC=0,0 
C_C254         0 N1063280  0.1uF  TC=0,0 
R_R151         -5 N1063116  10.05k TC=0,0 
C_C251         0 N1063116  6.8uF  TC=0,0 
C_C252         0 -5  0.1uF  TC=0,0 
R_R146         N1063106 N1063280  200 TC=0,0 
C_C253         0 5  0.1uF  TC=0,0 
R_R150         N1063116 5  9.95k TC=0,0 
C_C250         0 N1063116  0.1uF  TC=0,0 
X_U1         N1063116 N1063096 5 -5 N1063106 OPAX277
R_R147         N1063637 N1063633  100 TC=0,0 
C_C255         0 5  10nF  TC=0,0 
C_C256         0 5  6.8u  TC=0,0 
V_V3         IN 0  
+SIN 0 50m 10Mega 0 0 0
