* source DASDQ
C_C254         0 N1078346  1n  TC=0,0 
C_C262         0 N1078496  0.1u  TC=0,0 
R_R154         0 N1077998  1 TC=0,0 
C_C252         0 -5  0.1uF  TC=0,0 
C_C265         0 N1077998  1.2p  TC=0,0 
R_R155         N1078024 N1077998  1 TC=0,0 
C_C261         0 N1078496  1n  TC=0,0 
C_C263         0 N1078024  1n  TC=0,0 
V_V1         5 0 5
R_R148         N1078468 N1078478  200 TC=0,0 
C_C264         0 N1078024  0.1u  TC=0,0 
R_R149         -5 N1078496  15k TC=0,0 
R_R147         N1078496 5  5k TC=0,0 
R_R151         N1078024 N1078210  500 TC=0,0 
X_U1         N1078496 N1078468 5 -5 N1078478 OPAX277
C_C253         0 5  0.1uF  TC=0,0 
V_V2         0 -5 5
R_R156         N1078024 N1078270  1 TC=0,0 
R_R153         N1078346 N1078478  130 TC=0,0 
V_V3         VCC 0 2.5
I_I1         N1077998 0 DC 0Adc AC 0Aac
+SIN 0 3m 1k 0 0 0
V_V4         VEE 0 -2.5
X_U2         N1078346 N1078270 VCC VEE N1078210 OPA855
