* source DEL123
V_V1         N1080667 0 5
V_V2         0 N1080673 5
X_U2         0 N1079833 N1080673 N1080667 N1079857 OPA855
R_R150         N1079833 N1079857  200 TC=0,0 
C_C1         N1079857 N1079833  1n  TC=0,0 
I_I1         0 N1079833 DC 1m  
