* source DEL13
X_U2         0 N1078387 5 -5 N1078401 OPA855
R_R151         N1078379 N1078387  200 TC=0,0 
V_V2         0 -5 5
R_R150         N1078387 N1078401  200 TC=0,0 
V_V4         N1078379 0  
+SIN 0 1m 1k 0 0 0
V_V1         5 0 5
