* source DEL13213
V_V1         5 0 5
R_R2         N1081188 N1081198  1.4k TC=0,0 
R_R1         N1083154 N1081188  200 TC=0,0 
I_I1         N1083154 0 DC 0Adc AC 0Aac
+SIN 0 2m 1mega 0 0 0
X_U1         0 N1081188 5 0 N1081198 OPA855
