* source FWEQFRAWE
V_V1         VCC 0 5
C_C266         N1102787 N1102741  0.7p  TC=0,0 
I_I4         N1102741 0 DC 0Adc AC 0Aac
+SIN 0 3m 1k 0 0 0
X_U76         N1104729 N1102741 N1102787 VCC 0 OPA855
R_R159         0 N1102741  21.34G TC=0,0 
R_R151         N1102741 N1102787  500 TC=0,0 
C_C265         0 N1102741  1.2p  TC=0,0 
V_V2         0 VEE -5
C_C264         0 N1102741  0.1u  TC=0,0 
C_C263         0 N1102741  1n  TC=0,0 
C_C268         0 VCC  1n  TC=0,0 
C_C267         0 VEE  1n  TC=0,0 
C_C252         0 VEE  0.1uF  TC=0,0 
R_R149         0 N1109040  15k TC=0,0 
C_C269         N1104729 0  1n  TC=0,0 
R_R153         N1104729 N1109032  130 TC=0,0 
V_V3         N1108948 0 5
R_R147         N1109040 N1108948  5k TC=0,0 
C_C261         0 N1109040  1n  TC=0,0 
C_C253         0 VCC  0.1uF  TC=0,0 
X_U1         N1109040 N1109020 VCC VEE N1109032 OPAX277
R_R154         N1109032 N1109020  200 TC=0,0 
C_C262         0 N1109040  0.1u  TC=0,0 
R_R155         N1109020 0  100 TC=0,0 
