* source SFAFA
X_U76         N1099569 N1099505 N1099261 VCC 0 OPA855
C_C266         N1099261 N1099253  0.7pF  TC=0,0 
R_R159         0 N1099215  21.34G TC=0,0 
R_R156         N1099253 N1099505  10 TC=0,0 
R_R151         N1099253 N1099261  1k TC=0,0 
C_C265         0 N1099215  1.2p  TC=0,0 
V_V1         VCC 0 5
V_V2         0 VEE 5
V_V5         0 N1104404 5
R_R149         N1104180 N1099569  130 TC=0,0 
V_V4         N1104098 0 5
R_R150         N1104404 N1104190  18k TC=0,0 
X_U1         N1104190 N1104170 VCC VEE N1104180 OPAX277
R_R147         N1104190 N1104098  2k TC=0,0 
C_C268         0 VCC  1n  TC=0,0 
C_C252         0 VEE  0.1uF  TC=0,0 
C_C253         0 VCC  0.1uF  TC=0,0 
R_R160         0 N1104170  200 TC=0,0 
C_C267         0 VEE  1n  TC=0,0 
C_C269         0 N1099569  1n  TC=0,0 
R_R148         N1104170 N1104180  200 TC=0,0 
I_I5         N1099215 0 DC 0Adc AC 0Aac
+PULSE 0 6m 5n 0.4n 0.4n 1n 20n
R_R161         N1099215 N1099253  200 TC=0,0 
