* source TIAOPA695
R_R147         N1113661 N1113565  2k TC=0,0 
R_R149         N1113647 N1113485  130 TC=0,0 
V_V2         0 VEE 5
V_V6         0 N1113879 5
C_C252         0 VEE  0.1uF  TC=0,0 
R_R159         0 N1113089  21.34G TC=0,0 
C_C271         0 VCC  0.1uF  TC=0,0 
C_C253         0 VCC  0.1uF  TC=0,0 
R_R150         N1113879 N1113661  18k TC=0,0 
X_U76         N1113485 N1113089 N1113125 VCC 0 OPA855
C_C267         0 VEE  1n  TC=0,0 
C_C270         0 VCC  1n  TC=0,0 
I_I5         0 N1113089 DC 0Adc AC 0Aac
+PULSE 0 {IVar} 5n 0.4n 0.4n 1n 0
V_V5         N1113565 0 5
R_R160         0 N1113637  200 TC=0,0 
C_C268         0 VCC  1n  TC=0,0 
R_R151         N1113089 N1113125  500 TC=0,0 
R_R148         N1113637 N1113647  200 TC=0,0 
V_V1         VCC 0 5
C_C269         0 N1113485  1n  TC=0,0 
C_C265         0 N1113089  1.2p  TC=0,0 
C_C266         N1113125 N1113089  0.7pF  TC=0,0 
X_U1         N1113661 N1113637 VCC VEE N1113647 OPAX277
C_C259         0 0  0.1uF  TC=0,0 
C_C258         N1113125 N1114737  1n  TC=0,0 
C_C255         0 VEE  0.1uF  TC=0,0 
R_R152         N1114747 N1114761  500 TC=0,0 
C_C272         0 VCC  0.1uF  TC=0,0 
R_R156         N1114963 N1114761  20 TC=0,0 
C_C256         0 VEE  6.8uF  TC=0,0 
C_C254         0 VCC  6.8uF  TC=0,0 
X_U73         N1114991 N1114747 N1114761 VCC VEE OPA695
C_C257         N1113125 N1114737  0.1u  TC=0,0 
R_R154         N1114991 0  20 TC=0,0 
R_R155         N1114737 N1114747  360 TC=0,0 
R_R157         N1114963 0  67k TC=0,0 
.PARAM  ivar=0.5
