* source TWRAWR
X_U1         N04153 N04047 OUT VCC VEE OPA855
R_R1         N04047 OUT  453 TC=0,0 
R_R3         0 OUT  200 TC=0,0 
R_R2         0 N04047  75 TC=0,0 
V_V3         N04153 0 DC 0Vdc AC 1Vac 
