* source VAVQVQQ
V_V1         VCC 0 5
V_V2         0 VEE 5
C_C265         0 N1108435  1.2p  TC=0,0 
C_C266         N1108473 N1108435  0.7pF  TC=0,0 
R_R159         0 N1108435  21.34G TC=0,0 
X_U76         N1108729 N1108435 N1108473 VCC 0 OPA855
R_R151         N1108435 N1108473  500 TC=0,0 
I_I5         0 N1108435 DC 0Adc AC 0Aac
+PULSE 0 {IVar} 5n 0.4n 0.4n 1n 0
C_C267         0 VEE  1n  TC=0,0 
R_R148         N1111269 N1111279  200 TC=0,0 
C_C252         0 VEE  0.1uF  TC=0,0 
R_R150         N1111507 N1111289  18k TC=0,0 
C_C253         0 VCC  0.1uF  TC=0,0 
C_C268         0 VCC  1n  TC=0,0 
V_V6         0 N1111507 5
R_R147         N1111289 N1111197  2k TC=0,0 
X_U1         N1111289 N1111269 VCC VEE N1111279 OPAX277
V_V5         N1111197 0 5
R_R149         N1111279 N1108729  130 TC=0,0 
R_R160         0 N1111269  200 TC=0,0 
C_C269         0 N1108729  1n  TC=0,0 
C_C271         0 VCC  0.1uF  TC=0,0 
C_C270         0 VCC  1n  TC=0,0 
.PARAM  ivar=0.5
