* source WREARAWSDF
R_R149         -5 N1082962  15k TC=0,0 
R_R148         N1082942 N1082952  200 TC=0,0 
X_U2         N1082962 N1082942 5 -5 N1082952 OPAX277
C_C263         0 N1083180  0.1u  TC=0,0 
X_U3         N1083180 N1082798 OUT VCC VEE OPA855
V_V4         0 -5 5
R_R3         0 OUT  200 TC=0,0 
I_I1         N1082794 0 DC 0Adc AC 0Aac
+SIN 0 2m 1k 0 0 0
R_R1         N1082798 OUT  500 TC=0,0 
R_R2         N1082794 N1082798  75 TC=0,0 
R_R153         N1083180 N1082952  130 TC=0,0 
R_R147         N1082962 5  5k TC=0,0 
V_V3         5 0 5
V_V2         VEE 0 -2.5
V_V1         VCC 0 2.5
