* source ZXCWCQ
V_V3         IN 0  
+SIN 0 60m 10Mega 0 0 0
V_V1         VCC 0 5
V_V2         0 VEE 5
X_U74         IN N1066743 VCC 0 N1066549 N1066753 TLV3604
C_C256         0 VCC  6.8u  TC=0,0 
R_R147         N1066753 N1066549  100 TC=0,0 
C_C255         0 VCC  10nF  TC=0,0 
R_R163         N1115041 N1114949  9.9k TC=0,0 
R_R164         N1115021 N1115031  200 TC=0,0 
C_C277         0 VEE  0.1uF  TC=0,0 
C_C275         0 VCC  0.1uF  TC=0,0 
V_V8         0 N1115255 5
R_R166         N1115255 N1115041  10.1k TC=0,0 
X_U78         N1115041 N1115021 VCC VEE N1115031 OPAX277
R_R165         N1115031 N1066743  130 TC=0,0 
C_C276         0 N1066743  1n  TC=0,0 
C_C278         0 VEE  1n  TC=0,0 
C_C274         0 VCC  1n  TC=0,0 
V_V7         N1114949 0 5
