* source DEL1
R_R151         N1065412 N1065420  500 TC=0,0 
V_V1         5 0 5
V_V2         0 -5 5
X_U47         0 N1066227 5 0 N1066194 uA741
R_R152         N1066227 N1066194  500 TC=0,0 
X_U48         0 N1065412 5 0 N1065420 OPA856
