* source DEL2
C_C258         N1068345 N1068355  1n  TC=0,0 
R_R156         N1068621 N1068379  20 TC=0,0 
C_C255         0 -5  0.1uF  TC=0,0 
R_R152         N1068365 N1068379  500 TC=0,0 
R_R155         N1068355 N1068365  360 TC=0,0 
V_V2         0 -5 5
C_C254         0 5  6.8uF  TC=0,0 
C_C253         0 5  0.1uF  TC=0,0 
X_U73         N1072873 N1068365 N1068379 5 -5 OPA695
V_V3         5 0 5
C_C257         N1068345 N1068355  0.1u  TC=0,0 
C_C256         0 -5  6.8uF  TC=0,0 
V_V4         N1068345 0  
+SIN 4 10 1mega 0 0 0
R_R159         N1068621 0  67k TC=0,0 
C_C259         0 0  1n  TC=0,0 
R_R158         N1072873 0  20 TC=0,0 
