* source OPA277
X_U1         N1061390 N1061309 5 -5 N1061232 OPAX277
V_V1         5 0 5
V_V2         0 -5 5
C_C252         0 -5  0.1uF  TC=0,0 
C_C253         0 5  0.1uF  TC=0,0 
R_R146         N1061232 N1061236  200 TC=0,0 
C_C254         0 N1061236  0.1uF  TC=0,0 
R_R145         N1061309 N1061232  200 TC=0,0 
C_C251         0 N1061390  6.8uF  TC=0,0 
C_C250         0 N1061390  0.1uF  TC=0,0 
R_R148         -5 N1061390  10k TC=0,0 
R_R147         N1061390 5  10k TC=0,0 
