* source TIA(OPA855)
C_C254         0 N1065166  1n  TC=0,0 
X_U46         N1065166 N1063532 5 0 N1064165 OPA855
R_R151         N1063525 N1064165  500 TC=0,0 
R_R152         N1063532 N1063525  10 TC=0,0 
V_V1         5 0 5
V_V2         0 -5 5
X_U1         N1072533 N1072513 5 -5 N1072523 OPAX277
R_R148         N1072513 N1072523  200 TC=0,0 
R_R149         -5 N1072533  15k TC=0,0 
C_C253         0 5  0.1uF  TC=0,0 
R_R147         N1072533 5  5k TC=0,0 
C_C252         0 -5  0.1uF  TC=0,0 
C_C261         0 N1072533  1n  TC=0,0 
C_C262         0 N1072533  0.1u  TC=0,0 
I_I1         N1071975 0 DC 0Adc AC 0Aac
+PULSE 0 3m 0 0.6n 0.6n 0.6n 3n
R_R153         N1071975 N1063525  1 TC=0,0 
