* PSpice Model Editor - Version 16.6.0
*$
* updated using Model Editor release 16.6.0 on 06/17/14 at 10:10
*DEVICE=LED,D
.subckt LED 1 2 
+ params:
+ AREA=1.0
+ IS=10f
+ RS=0
+ CJO=0
+ BV=5
+ IBV=.001
D_LED 1 2 model201 {area} 
.model model201 d
+ is={IS}
+ rs={RS}
+ cjo={CJO}
+ bv={BV}
+ ibv={IBV}
+ N=2
.ends LED
*$
.SUBCKT Zener AN CAT
* Model generated on 2014 Jun 17
* MODEL FORMAT: PSpice
* MODEL Type: ZEN
+ params:
+ VZT=4
+ IZT= 20m
+ ZZT= 11
+ TCBV=1.7
+ IR= 1u
+ VR= 1
XinstMyZenerModel AN CAT model434
+ params:
+ vzt={VZT}
+ izt={IZT}
+ zzt={ZZT}
+ tcbv={TCBV}
+ ir={IR}
+ vr={VR}
.ends Zener
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
